US08247576B2
14B. 4-(4-Chloro-phenyl)-4-[4-(1H-pyrazol-4-yl)-phenyl]-piperidine
4-(4-Bromo-phenyl)-4-(4-chloro-phenyl)-piperidine was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following the procedure set out in Example 1 to give the title compound. LC/MS: (PS-A3) Rt 7.22 [M+H]+ 338.08. 1H NMR (Me-d3-OD) δ 2.64-2.74 (4H, m), 3.22-3.25 (4H, m), 7.33-7.45 (6H, m 7.65 (2H, d), 8.37 (2H, s).

reactant | 4-(4-Bromo-phenyl)-4-(4-chloro-phenyl)-piperidine | BrC1=CC=C(C=C1)C1(CCNCC1)C1=CC=C(C=C1)Cl | C17H17BrClN
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | 4-(4-Chloro-phenyl)-4-[4-(1H-pyrazol-4-yl)-phenyl]-piperidine | ClC1=CC=C(C=C1)C1(CCNCC1)C1=CC=C(C=C1)C=1C=NNC1 | C20H20ClN3
